US08383629B2
(±)-(E)-ethyl 2-(7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate (13 mg, mmol) was dissolved in THF (0.4 mL) and MeOH (0.8 mL). A solution of LiOH.H2O (10 mg) in water (0.4 mL) was added. The mixture was stirred at rt for 5 d. The reaction mixture was submitted directly to preparative HPLC to afford (±)-(E)-2-(7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetic acid (6 mg, %) as a solid. LC-MS Method 1 tR=1.92, min, m/z=522, 524.

reactant | (±)-(E)-ethyl 2-(7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate | 13 mg | BrC=1C=CC=C2C(CC3(CCN(CC3)C(\C=C\C3=C(C=CC=C3)C(F)(F)F)=O)C12)CC(=O)OCC | C27H27BrF3NO3
reactant | LiOH.H2O | 10 mg | O[Li].O
solvent | THF | 0.4 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.8 mL | CO | CH4O
solvent | water | 0.4 mL | O | H2O
product | (±)-(E)-2-(7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetic acid | 6 mg | BrC=1C=CC=C2C(CC3(CCN(CC3)C(\C=C\C3=C(C=CC=C3)C(F)(F)F)=O)C12)CC(=O)O | C25H23BrF3NO3
